US08557876B2
A 100 mL reaction flask is charged with 3,5,5,6,8,8-hexamethyl-3,4,5,6,7,8-hexahydro-2H-naphthalen-1-one (prepared as described in U.S. Pat. No. 3,927,083) (10 g, 0.042 mol), formamidine acetate (21 g, 0.2 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 5,7,7,8,10,10-hexamethyl-5,6,7,8,9,10-hexahydro-benzo[h]quinazoline (˜5 g) is obtained.

reactant | 3,5,5,6,8,8-hexamethyl-3,4,5,6,7,8-hexahydro-2H-naphthalen-1-one | CC1CC(C=2C(CC(C(C2C1)(C)C)C)(C)C)=O | C16H26O
reactant | formamidine acetate | 0.2 mol, 21 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 5,7,7,8,10,10-hexamethyl-5,6,7,8,9,10-hexahydro-benzo[h]quinazoline | ˜5 g | CC1C=2C=NC=NC2C2=C(C1)C(C(CC2(C)C)C)(C)C | C18H26N2
